* Z:\home\jason\Nextcloud\Etherkit\git\Yamhill\SPICE\AFAmp.asc
V1 +V 0 5
V3 IN 0 SINE(0 2m 1k)
XU1 N009 N005 +V 0 N006 level2 Avol=1Meg GBW=22Meg Slew=17Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R2 VG N009 100k
R3 0 VG 10k
R4 VG +V 10k
C2 VG 0 10µ
C3 N008 IN 10µ
C1 IS N006 10µ
R5 N005 N008 100
R6 N006 N005 1k
XU2 N007 N003 +V 0 N004 level2 Avol=1Meg GBW=22Meg Slew=17Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R10 N003 IS 1k
R11 N004 N003 10k
R7 VG N007 100k
V2 KEY 0 PULSE(0 5 0 1m 1m 10m 20m) Rser=10
C5 OUT N004 10µ
M2 N004 N002 N003 N003 2N7002
R1 N002 0 100k
M3 N006 N001 N005 N005 2N7002
R12 N001 0 100k
C4 N001 0 1µ
R14 N001 KEY 470
R15 N002 KEY 1k
C7 N002 0 1µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\jason\Local Settings\Application Data\LTspice\lib\cmp\standard.mos
.tran 200m
.lib UniversalOpAmp2.lib
.backanno
.end
